data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_281757_0,[C:1](/[C:3](=[C:4](/[C:2]([H:12])([H:13])[H:14])[N:6]=[O:7])[O:5][H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([O:5][H:8])[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6][O:7]1)([H:9])([H:10])[H:11],29.815662500020466
MR_343313_2,[C:1]1([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:2]([O:7][H:8])([H:9])[O:6][O:5]1>>[C:1]([C:2](=[O:7])[H:9])([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:5][O:6][H:8],38.73683000000398
MR_140227_0,[C:1]([N:3]([N:5]([H:8])[H:9])[H:7])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:6])([H:10])[H:11]>>[C:1](/[N:3]=[N:5]/[H:8])([C:4]([C:2]([H:12])([H:13])[H:14])([O:6][H:9])[H:7])([H:10])[H:11],59.98649000003596
MR_163345_0,[C:1]([C:2](=[O:6])[H:9])([O:3][N:4][O:5])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C@:2]([O:6][N:4][O:5])([H:9])[O:3]1,39.556345000039386
MR_320910_1,[C:1]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])(/[C:6]([C:4]([H:20])([H:21])[H:22])=[C:8](/[N:7]([H:9])[H:10])[H:13])([H:11])[H:12]>>[C:1](=[C:6]([C:4]([H:20])([H:21])[H:22])[C:8]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])([N:7]([H:9])[H:10])[H:13])([H:11])[H:12],61.73282249997854
MR_377374_1,[C:1]([N:3]([C:2]([H:17])([H:18])[H:19])[H:9])([N:5]([H:11])[H:12])([N:8]=[C:4]([N:6]([H:14])[H:15])[N:7]([H:13])[H:16])[H:10]>>[C:1](\[N:5]([H:11])[H:12])(=[N:8]/[C:4]([N:3]([C:2]([H:17])([H:18])[H:19])[H:9])([N:6]([H:14])[H:15])[N:7]([H:13])[H:16])[H:10],54.23670749999971
MR_588087_0,[C:1]([N:3]([H:10])[H:11])([N:4]([H:9])[H:12])([C:5](=[O:8])[H:13])/[C:6](=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14]>>[C:1]([N:3]([H:10])[H:11])([N:4]([H:9])[H:12])=[C:6]([C@@:7]([C:2]([H:16])([H:17])[H:18])([C:5](=[O:8])[H:13])[H:15])[H:14],45.31491250001778
MR_173692_0,[C@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[N:7][O:8])([C:5]([O:6][H:10])=[O:9])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[N:7]([C:5](=[O:6])[O:9])[O:8][H:10])[H:11],45.45861000001168
MR_412661_0,[C:1]([N:3]([H:8])[H:9])(=[C:4]([H:10])[H:11])[O:5][N:2]([H:6])[H:7]>>[C:1](\[N:3]([H:8])[H:9])(=[C:4](\[O:5][N:2]([H:6])[H:7])[H:10])[H:11],58.60598999999013
MR_604761_0,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:6](\[C:4]([H:20])([H:21])[H:22])[N:7]([H:11])[H:12])([C:8](=[O:9])[H:13])[H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](\[C:3]([H:17])([H:18])[H:19])[C:6]([C:4]([H:20])([H:21])[H:22])([N:7]([H:11])[H:12])[C:8](=[O:9])[H:13])[H:10],60.99488250002253
MR_488949_1,[C:1]([C:2]([C:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]\[H:13])([O:6][H:10])[O:9][H:11])([H:14])[H:15])(=[O:7])[H:12]>>[C:1]([C:2]([C:4]([O:6][H:10])=[O:9])([H:14])[H:15])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]\[H:13])([O:7][H:11])[H:12],54.236080000001294
MR_205627_0,[C:1]([N:2](/[C:3](=[N:7]/[O:6][H:8])[H:9])[C:4](=[C:5]([H:14])[H:15])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[C:3](\[N:7]([C:4](=[C:5]([H:14])[H:15])[H:10])[O:6][H:8])[H:9])([H:11])([H:12])[H:13],65.88122499999159
MR_521821_0,[C@:1]([C:3]([C:2]([H:15])([H:16])[H:17])=[O:8])(/[C:5](=[C:6](\[N:4]([H:11])[H:12])[H:14])[H:13])([O:7][H:9])[H:10]>>[C:1](=[C:5](/[C@@:6]([C:3]([C:2]([H:15])([H:16])[H:17])=[O:8])([N:4]([H:11])[H:12])[H:14])[H:13])(\[O:7][H:9])[H:10],68.31278749998759
MR_393825_0,[C@@:1]([C@@:2]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[H:11])[H:12])([O:7][N:6]([H:13])[H:14])([O:8][H:9])[H:10]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([O:7][N:6]([H:13])[H:14])[H:12])([N:5]([C:3]([H:15])([H:16])[H:17])[H:11])([O:8][H:9])[H:10],59.82961499996833
MR_524366_2,[C:1]([C@:3]1([N:5]([H:10])[H:11])[C@@:2]2([N:4]([H:8])[H:9])[N:6]1[N:7]2[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[C:2]([N:4]([H:8])[H:9])\[N:6]=[N:7]/[H:12])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],36.980457500015405
MR_651568_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])/[C:4]([O:6][H:9])=[N:8]/[N:5]([H:11])[H:12])([O:7][H:10])([H:13])[H:14]>>[C:1]([O:7][H:10])([N:8](/[C:4](=[N:3]\[C:2]([H:15])([H:16])[H:17])[O:6][H:9])[N:5]([H:11])[H:12])([H:13])[H:14],67.39538249998532
MR_176668_1,[N:1](/[C:5](=[N:7]\[H:13])[H:14])([N:6]=[C:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])[H:8]>>[N:1]1([H:8])[C:5]([N:7]([H:10])[H:13])([H:14])[N:6]1/[C:2](=[N:3]/[H:9])[N:4]([H:11])[H:12],56.53147500002007
MR_389798_1,[C@:1]1(/[C:6]([N:7]([H:11])[H:12])=[C:8](/[C:5]([H:19])([H:20])[H:21])[H:15])([H:9])[C@:2]([C:4]([H:16])([H:17])[H:18])([H:10])[C:3]1([H:13])[H:14]>>[C:1]1([H:9])=[C:6]([N:7]([H:11])[H:12])[C@:8]([C:5]([H:19])([H:20])[H:21])([H:15])[C@:2]([C:4]([H:16])([H:17])[H:18])([H:10])[C:3]1([H:13])[H:14],56.88287499998893
MR_161336_1,[C:1]1(/[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])=[N:7]\[H:9])([H:8])[C:2]([H:10])([H:11])[O:6]1>>[C:1]([C:2](=[O:6])[H:11])(/[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])=[N:7]\[H:9])([H:8])[H:10],60.6729749999792
